US08193214B2
4-[3-(5-Chloro-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridin-2-ylsulfanyl]-butyric acid
A solution of 15 mg (0.04 mmol) of 4-[3-(5-chloro-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridin-2-ylsulfanyl]-butyric acid methyl ester in 2 mL of THF is treated with a solution of 10 mg (0.24 mmol) of lithium hydroxide monohydrate in 1 mL of water at room temperature. The resulting mixture is heated to 50° C., and stirred at this temperature for 2 h. The reaction mixture is then cooled to room temperature and concentrated in vacuo. The residue is purified by preparative TLC on silica gel to give the title compound. LCMS (ESMS): m/z 417 (M+H+).

reactant | 4-[3-(5-chloro-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridin-2-ylsulfanyl]-butyric acid methyl ester | 0.04 mmol, 15 mg | COC(CCCSC=1N=C2N(C=CC=C2)C1CC=1C2=C(SC1)C=CC(=C2)Cl)=O | C21H19ClN2O2S2
reactant | lithium hydroxide monohydrate | 0.24 mmol, 10 mg | O.[OH-].[Li+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 4-[3-(5-Chloro-benzo[b]thiophen-3-ylmethyl)-imidazo[1,2-a]pyridin-2-ylsulfanyl]-butyric acid | ClC1=CC2=C(SC=C2CC2=C(N=C3N2C=CC=C3)SCCCC(=O)O)C=C1 | C20H17ClN2O2S2
